US07018818B2
(+/−)-Ethyl bicyclo[3.2.0]hept-2-en-6-ylideneacetate
A solution of triethylphosphonoacetate (10.7 g; 48 mmol) in tetrahydrofuran (5 ml) was added to a suspension of 60% sodium hydride dispersion (1.91 g; 48 mmol) in tetrahydrofuran (30 ml) maintaining the temperature between 5–15° C. A solution of bicyclo[3.2.0]hept-2-en-6-one (5 g; 46 mmol) in tetrahydrofuran (5 ml) was added maintaining the temperature between 5–15° C. The reaction mixture was stirred at ambient temperature for 30 minutes then demineralised water (30 ml) added. The phases are separated and toluene (20 ml) was added to the organic layer which was washed with demineralised water (2×20 ml). The organic phase was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield the title compound as a oil (7.74 g).

reactant | sodium hydride | [H-].[Na+]
reactant | bicyclo[3.2.0]hept-2-en-6-one | 46 mmol, 5 g | C12C=CCC2C(C1)=O | C7H8O
reactant | water | 30 ml | O | H2O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (+/−)-Ethyl bicyclo[3.2.0]hept-2-en-6-ylideneacetate | 7.74 g | C12C=CCC2C(C1)=CC(=O)OCC | C11H14O2
